US03939202
Into ether (800 ml), 52% paraffin solution of sodium hydride (22.8 g) is suspended, and diethyl carbonate (89.4 g) is portionwise added thereto while cooling with ice in nitrogen stream. Then, 3,7,11-trimethyl-6,10-dodecadien-2-one (88 g) is dropwise added thereto. After refluxing for 15 hours, the reaction mixture is poured into ice water. The ether layer is separated, washed with water, dried and evaporated. The residue is distilled under reduced pressure to give ethyl 3,7,11-trimethyl-6,10-dodecadien-2-one-1-carboxylate (81 g). B.P. 130° to 135°C/0.05 mmHg. IR: 1640, 1675, 1710, 1740 cm-1. NMR (carbon tetrachloride): 1.10 (d), 1.29 (t), 1.60 (s), 1.68 (s), 1.98 (s), 2.00-2.80 (broad), 3.33 (s), 4.15 (q), 4.8-5.3 (broad).

reactant | sodium hydride | 22.8 g | [H-].[Na+]
reactant | diethyl carbonate | 89.4 g | C(OCC)(OCC)=O | C5H10O3
reactant | 3,7,11-trimethyl-6,10-dodecadien-2-one | 88 g | CC(C(C)=O)CCC=C(CCC=C(C)C)C | C15H26O
solvent | ether | 800 ml | CCOCC | C4H10O
product | ethyl 3,7,11-trimethyl-6,10-dodecadien-2-one-1-carboxylate | 81 g | CC(C(CC(=O)OCC)=O)CCC=C(CCC=C(C)C)C | C18H30O3
